US09359340B2
To a solution of the (S)-tert-butyl 4-((5R,7R)-7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate (0.281 g, 0.72 mmol) in THF (5 mL) was added LiOH (3M, 2 mL). The mixture was stirred at room temperature for 6 hours and then quenched with 2N HCl (3 mL). The solvent was removed and the residue was purified by silica gel chromatography, eluting with ethyl acetate to give (S)-tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate (0.206 g, 82%). 1H NMR (CDCl3, 400 MHz) δ 8.52 (s, 1H), 5.12 (m, 1H), 4.76 (br, 1H), 4.30-3.80 (m, 3H), 3.52 (m, 1H), 3.26 (m, 1H), 3.03 (br, 1H), 2.20 (m, 1H), 1.49 (s, 9H), 1.30-1.10 (m, 6H). MS (APCI+) [M+H] +349.

reactant | (S)-tert-butyl 4-((5R,7R)-7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate | 0.72 mmol, 0.281 g | C(C)(=O)O[C@@H]1C[C@H](C2=C1N=CN=C2N2[C@H](CN(CC2)C(=O)OC(C)(C)C)C)C | C20H30N4O4
reactant | LiOH | 3M, 2 mL | [Li+].[OH-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate | 0.206 g, 82% | O[C@@H]1C[C@H](C2=C1N=CN=C2N2[C@H](CN(CC2)C(=O)OC(C)(C)C)C)C | C18H28N4O3
